US07368578B2
To a solution of 4-hydroxymethyl-2-phenyloxazole-5-carbaldehyde (0.25 g) in tetrahydrofuran (5 mL)-ethanol (3 mL) was gradually added sodium borohydride (0.04 g) at 0° C. After stirring at room temperature for 1 hr, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give (4-methoxymethoxymethyl-2-phenyl-1,3-oxazol-5-yl)methanol as colorless crystals (0.19 g, yield 76%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 70-71° C.

reactant | 4-hydroxymethyl-2-phenyloxazole-5-carbaldehyde | 0.25 g | OCC=1N=C(OC1C=O)C1=CC=CC=C1 | C11H9NO3
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.04 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (4-methoxymethoxymethyl-2-phenyl-1,3-oxazol-5-yl)methanol | 0.19 g, yield 76% | COCOCC=1N=C(OC1CO)C1=CC=CC=C1 | C13H15NO4
